US05298627
Crude [R-(R*,R*)]-6-cyano-3,5-dihydroxy-N,N-diphenylhexanamide, approximately 0.18 mol, is dissolved in 2,2-dimethoxypropane (160 mL, 1.5 mol) and acetone (300 mL). Methanesulfonic acid (0.5 mL) is added, and the solution is stirred for 2 hours at room temperature. The reaction is quenched by the addition of aqueous sodium bicarbonate (800 mL) and ethyl acetate (500 mL). The ethyl acetate solution is concentrated by vacuum distillation to give 62.5 g of (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide as an off-white crystalline solid (mp 98°-100° C., uncorrected).

reactant | 6-cyano-3,5-dihydroxy-N,N-diphenylhexanamide | C(#N)CC(CC(CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)O)O | C19H20N2O3
reactant | 2,2-dimethoxypropane | 1.5 mol, 160 mL | COC(C)(C)OC | C5H12O2
reactant | Methanesulfonic acid | 0.5 mL | CS(=O)(=O)O | CH4O3S
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide | 62.5 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C22H24N2O3
